US07514470B2
B. Methyl 3-[[4-cyano-3-(trifluoromethyl)phenyl](2,2,2-trifluoroethyl)amino]-2-methylpropanoate
A suspension of 5% Pd/C (0.060 g) in EtOAc (3 mL) was stirred under an H2 atmosphere (balloon pressure) for 15 min. A solution of methyl 2-{[[4-cyano-3-(trifluoromethyl)phenyl](2,2,2-trifluoroethyl)amino]methyl}acrylate (0.090 g, 0.245 mmol) in EtOAc (3 mL) was added and the mixture stirred for 1 hr. The catalyst was filtered off and washed with EtOAc. The filtrate was concentrated and purified by silica gel chromatography to afford 0.056 g (62% yield) of the title compound: MS (ES) m/z 369 (M+1).

reactant | methyl 2-{[[4-cyano-3-(trifluoromethyl)phenyl](2,2,2-trifluoroethyl)amino]methyl}acrylate | 0.245 mmol, 0.090 g | C(#N)C1=C(C=C(C=C1)N(CC(F)(F)F)CC(C(=O)OC)=C)C(F)(F)F | C15H12F6N2O2
solvent | EtOAc | 3 mL | CCOC(=O)C | C4H8O2
solvent | EtOAc | 3 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 0.060 g | [Pd] | Pd
product | Methyl 3-[[4-cyano-3-(trifluoromethyl)phenyl](2,2,2-trifluoroethyl)amino]-2-methylpropanoate | 0.056 g, 62% yield | C(#N)C1=C(C=C(C=C1)N(CC(C(=O)OC)C)CC(F)(F)F)C(F)(F)F | C15H14F6N2O2
